US06498264B2
Methacryloxythexyldiisobutylsilane
A flask equipped with a stirrer, reflux condenser, dropping funnel and thermometer was charged with 17.2 g (0.2 mol) of methacrylic acid, 120 ml of toluene, and 0.06 g of 2,6-di-tert-butyl-4-methylphenol. At room temperature, 22.3 g (0.22 mol) of triethylamine was added dropwise over one hour. At the end of dropwise addition, the flask was heated at 80° C. After the internal temperature became constant, 52.6 g (0.20 mol) of thexyldiisobutylchlorosilane was added dropwise over two hours. After the completion of dropwise addition, the reaction solution was stirred for 5 hours at 80° C. The reaction solution was then cooled to room temperature, and the resulting hydrochloric acid salt removed by filtration. The filtrate was distilled, collecting 46.3 g of a fraction having a boiling point of 104-110° C./0.13 kPa.

reactant | methacrylic acid | 0.2 mol, 17.2 g | C(C(=C)C)(=O)O | C4H6O2
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.06 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | triethylamine | 0.22 mol, 22.3 g | C(C)N(CC)CC | C6H15N
reactant | thexyldiisobutylchlorosilane | 0.20 mol, 52.6 g | C(C)(C)(C(C)C)[Si](Cl)(CC(C)C)CC(C)C | C14H31ClSi
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | Methacryloxythexyldiisobutylsilane | C(C(=C)C)(=O)O[Si](CC(C)C)(CC(C)C)C(C)(C)C(C)C | C18H36O2Si
